US06969711B2
To a solution of 2,3-diaminopyridine (286 mg, 2.62 mmol) in THF (10 ml) were added thiophosgene (300 mg, 2.62 mmol) and triethylamine (265 mg, 2.62 mmol), and the mixture was stirred at room temperature for 20 hours. The reaction mixture was concentrated in vacuo, and the resulting residue was purified by a silica gel preparative thin layer chromatography (developing solvent; chloroform:sat. ammonia methanol=10:1) to provide 39 mg (yield 10%) of 2-mercaptoimidazolo[4,5-b]pyridine.

reactant | 2,3-diaminopyridine | 2.62 mmol, 286 mg | NC1=NC=CC=C1N | C5H7N3
reactant | thiophosgene | 2.62 mmol, 300 mg | C(=S)(Cl)Cl | CCl2S
reactant | triethylamine | 2.62 mmol, 265 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-mercaptoimidazolo[4,5-b]pyridine | 39 mg, yield 10% | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
